US04602032
(d) 5-ethyl-4,5-dihydro-9,10-dimethoxy-2-methyl-4-oxo-dibenz[cd,f]indole (compound of formula IX)
661.4 ml (1.084M) of a 15% solution of n-butyl-lithium in hexane are added at 0°, over a period of 20 minutes and under a nitrogen atmosphere, to a solution of 97 g (0.328M) of 9-ethylamino-3,4-dimethoxy-6-methyl-phenanthrene in 1000 ml anhydrous tetrahydrofuran; the reaction mixture becomes dark red. After stirring for 30 minutes at 0°, the mixture is transferred in portions with a teflon tube with nitrogen pressure at -50° onto a mixture of 500 g sodium sulfate and 500 g dry ice in 1500 ml tetrahydrofuran. After the temperature of the mixture has reached room temperature, the mixture is poured onto water/ice, extracted three times with methylene chloride. The combined organic phases are dried over sodium sulfate and evaporated to give the title compound. M.pt. 158°-160° (decomp.) after crystallisation from ether/petroleum ether.

reactant | n-butyl-lithium | C(CCC)[Li]
reactant | 9-ethylamino-3,4-dimethoxy-6-methyl-phenanthrene | 0.328M, 97 g | C(C)NC=1C2=CC=C(C=C2C=2C(=C(C=CC2C1)OC)OC)C | C19H21NO2
reactant | sodium sulfate | 500 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | dry ice | 500 g | C(=O)=O | CO2
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 1000 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1500 ml | O1CCCC1 | C4H8O
product | 5-ethyl-4,5-dihydro-9,10-dimethoxy-2-methyl-4-oxo-dibenz[cd,f]indole | C(C)N1C(C=2C=3C(=C4C(=CC13)C=CC(=C4OC)OC)C=C(C2)C)=O | C20H19NO3
